US06472372B1
4-(3-Pyridazinyl)benzaldehyde
The title compound was prepared by a procedure analogous to Reference Example 13 by substituting 3-chloropyridazine (prepared as described in WO 9724124) for the 2-chloro4-methoxypyrimidine of Reference Example 13. MS 185 (M+H)+.

reactant | 3-chloropyridazine | ClC=1N=NC=CC1 | C4H3ClN2
reactant | 2-chloro4-methoxypyrimidine | ClC1=NC=CC(=N1)OC | C5H5ClN2O
product | 4-(3-Pyridazinyl)benzaldehyde | N1=NC(=CC=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
